US07981903B2
To a solution of 7-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-dihydro-1H-isoindol-1-one (140 mg, 0.210 mmol) in 1,4-dioxane (8 mL) was added 1.0M potassium hydroxide (6.30 mL, 6.30 mmol) and the resulting reaction was heated in a microwave reactor at 120° C. for 20 min. The reaction was washed with brine (5 ml), organic layer diluted with ethyl acetate (10 mL), adsorded onto silica gel and purified by silica gel chromatography (DCM to 10% MeOH/DCM) to produce 7-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-dihydro-1H-isoindol-1-one (0.070 g, 75%). ESIMS (M+H)+=513. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.02 (d, J=6.42 Hz, 6 H) 2.61 (d, J=9.23 Hz, 4 H) 3.08-3.16 (m, 4 H) 3.81 (s, 3 H) 4.39 (s, 2 H) 6.27 (dd, J=3.41, 1.81 Hz, 1 H) 6.51 (dd, J=8.73, 2.51 Hz, 1 H) 6.64 (d, J=2.61 Hz, 1 H) 6.97 (dd, J=3.41, 2.21 Hz, 1 H) 7.10 (d, J=7.62 Hz, 1 H) 7.43-7.50 (m, 1 H) 7.53 (s, 1 H) 7.83 (d, J=8.83 Hz, 1 H) 8.69 (d, J=8.23 Hz, 2 H) 8.79 (s, 1 H) 10.45 (s, 1 H) 11.33 (s, 1 H).

reactant | 7-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-dihydro-1H-isoindol-1-one | 0.210 mmol, 140 mg | CC(C)N1CCN(CC1)C1=CC(=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC=2C=CC=C1CNC(C21)=O)OC | C35H38N8O4S
reactant | potassium hydroxide | 6.30 mmol, 1.0M, 6.30 mL | [OH-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 7-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-dihydro-1H-isoindol-1-one | 0.070 g, 75% | CC(C)N1CCN(CC1)C1=CC(=C(C=C1)NC1=NC(=C2C(N1)=NC=C2)NC=2C=CC=C1CNC(C21)=O)OC | C28H32N8O2
